US08236826B2
Production of 2-[4-(1-bromoethyl)phenoxy]-5-nitropyridine
2-(4-ethylphenoxy)-5-nitropyridine (7.33 g, 30 mmol) was dissolved in carbon tetrachloride (100 mL), and to the resulting solution were added N-bromosuccimide (5.34 g, 30 mmol) and benzoyl peroxide (0.73 g, 3 mmol). This solution was refluxed overnight under a nitrogen atmosphere. The reaction solution was allowed to cool, after which insoluble matter was removed by filtration. The resulting filtrate was washed with a saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to thereby yield 1.34 g of the title compound.

reactant | 2-(4-ethylphenoxy)-5-nitropyridine | 30 mmol, 7.33 g | C(C)C1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C13H12N2O3
reactant | N-bromosuccimide | 30 mmol, 5.34 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 3 mmol, 0.73 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[4-(1-bromoethyl)phenoxy]-5-nitropyridine | BrC(C)C1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C13H11BrN2O3
